US08530570B2
Preparation of 2-isopropyl-2-methyl-1,3-propanediol
A 4 l stirring flask with condenser and nitrogen blanketing was charged with crude 2,3-dimethylbutanal product (250 g, 2.5 mol) (88% 2,3-dimethylbutanal and 11% 4-methylpentanal) and formaldehyde (30% in water, 750 g, 7.5 mol) with 120 g of methanol. Over the course of 1.5 h, sodium hydroxide (25% in water, 645 g, 4 mol) was added dropwise and the batch was heated at 50° C. Following the addition of the base, the batch was stirred at 50° C. for a further 30 min and then adjusted to a pH of 7 with formic acid at room temperature. The phases were separated. The aqueous phase contained diol (˜12%) and so was extracted with amyl alcohol. The combined organic phases were freed under reduced pressure from methanol and amyl alcohol. The crude distillation of the product took place via a distillation bridge (109-135° C. at 4 mbar). The final distillation was carried out in a packed column (108-106° C. at 4 mbar). The product was obtained in a yield of 92% as a solid with a purity of 98%.

reactant | 2,3-dimethylbutanal | 2.5 mol, 250 g | CC(C=O)C(C)C | C6H12O
reactant | formaldehyde | 7.5 mol, 750 g | C=O | CH2O
reactant | methanol | 120 g | CO | CH4O
reactant | sodium hydroxide | 4 mol, 645 g | [OH-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | 2-isopropyl-2-methyl-1,3-propanediol | yield of 92% | C(C)(C)C(CO)(CO)C | C7H16O2
